US07019012B2
(R)-tetrahydrofuran-2-carboxylic acid-N-benzyl-N-methylamide
25.30 g of N-benzyl-N-methylamine are added to a solution of 20.00 ml of (R)-tetrahydrofuran-2-carboxylic acid in 200 ml tetrahydrofuran. Then a total of 67.10 g of O-(benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium tetrafluoroborate are added batchwise while cooling with an ice bath and the reaction mixture is then stirred for about 48 hours at ambient temperature. The precipitate formed is suction filtered, the filtrate is evaporated, mixed with water and filtered again. The filtrate obtained is made alkaline with sodium hydrogen carbonate solution and extracted with ethyl acetate. The combined ethyl acetate extracts are washed with water and saturated sodium chloride solution, dried over magnesium sulfate, and evaporated down. A yellowish oil remains, which is further reacted without any further purification. Yield: 24.60 g (54% of theory); mass spectrum (ESI+): m/z=220 [M+H]+; Rf value: 0.62 (silica gel, ethyl acetate).

reactant | N-benzyl-N-methylamine | 25.30 g | C(C1=CC=CC=C1)NC | C8H11N
reactant | (R)-tetrahydrofuran-2-carboxylic acid | 20.00 ml | O1[C@H](CCC1)C(=O)O | C5H8O3
reactant | O-(benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium tetrafluoroborate | 67.10 g | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (R)-tetrahydrofuran-2-carboxylic acid-N-benzyl-N-methylamide | C(C1=CC=CC=C1)N(C(=O)[C@@H]1OCCC1)C | C13H17NO2
